US06680386B2
5.00 g of diethyl aminomalonate hydrochloride and 4.78 g of triethylamine were added to 100 ml of chloroform, and the resulting solution was stirred at the room temperature for 30 minutes. After cooling down the solution to 10° C., 4.13 g of 4-chlorobenzoylchloride was slowly added to the solution and the resulting solution was stirred at the room temperature for 2 hours. Upon the completion of the reaction, the solution was washed with 20 ml of water and 20 ml of 5% sodium bicarbonate and the organic layer was subjected to dry filtration to yield 6.70 g (90.4%) of diethyl 4-chlorobenzamidomalonate.

reactant | diethyl aminomalonate hydrochloride | 5.00 g | Cl.NC(C(=O)OCC)C(=O)OCC
reactant | triethylamine | 4.78 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoylchloride | 4.13 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | diethyl 4-chlorobenzamidomalonate | 6.70 g, 90.4% | ClC1=CC=C(C(=O)NC(C(=O)OCC)C(=O)OCC)C=C1 | C14H16ClNO5
